US08735387B2
(c) 5-(4-Chloro-benzyl)-2-(3-fluoro-phenyl)-6H-oxazolo[5,4-d]pyrimidin-7-one
7.4 g of phosphorus pentachloride were added at 60° C. to a suspension of 8.9 g of N-[2-(4-chloro-benzyl)-4,6-dihydroxy-pyrimidin-5-yl]-3-fluoro-benzamide hydrochloride in 100 ml of dry chloroform. After heating at 60° C. for several hours, 5.5 g of phosphorus oxychloride were added and the reaction mixture was stirred at 75° C. for 20 h. After cooling to room temperature, the precipitate was filtered off and purified by silica gel chromatography (gradient from ethyl acetate to dichloromethane to dichloromethane/methanol 3:1). The product fractions were evaporated and the residue washed with chloroform and water and dried in an infrared dryer until constant weight to give 0.47 g of the title compound.

reactant | phosphorus pentachloride | 7.4 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | N-[2-(4-chloro-benzyl)-4,6-dihydroxy-pyrimidin-5-yl]-3-fluoro-benzamide hydrochloride | 8.9 g | Cl.ClC1=CC=C(CC2=NC(=C(C(=N2)O)NC(C2=CC(=CC=C2)F)=O)O)C=C1
reactant | phosphorus oxychloride | 5.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-Chloro-benzyl)-2-(3-fluoro-phenyl)-6H-oxazolo[5,4-d]pyrimidin-7-one | 0.47 g | ClC1=CC=C(CC=2NC(C3=C(N2)OC(=N3)C3=CC(=CC=C3)F)=O)C=C1 | C18H11ClFN3O2
